US04371713
In the experiment in Example 7, fluorosulfuric acid was added to tetrahydrofuran while maintaining the latter at 20° C. and they were reacted at the same temperature for 6 hours and then treated in the same manner as in Example 7 to obtain colorless PTMG. The final conversion was 67%, and the obtained PTMG had a number-average molecular weight of 1,930, a hydroxyl number of 58 and a functionality of 2.0. The catalytic efficiency β was 0.87.

reactant | fluorosulfuric acid | S(O)(=O)(=O)F | FHO3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
